US07157464B2
Synthesis of 5-propyl-3-trifluoromethyl-1H-pyrazole
Following protocol H, 1-pentyne was treated with n-BuLi, CF3CO2Et and BF3-OEt2 in THF. Reaction with hydrazine in benzene under similar reaction conditions yielded title compound.

reactant | 1-pentyne | C#CCCC | C5H8
reactant | n-BuLi | [Li]CCCC
reactant | CF3CO2Et | C(F)(F)(F)C(=O)OCC | C4H5F3O2
reactant | BF3 OEt2 | B(F)(F)F.O(CC)CC
reactant | hydrazine | NN | H4N2
solvent | THF | C1CCOC1 | C4H8O
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 5-propyl-3-trifluoromethyl-1H-pyrazole | C(CC)C1=CC(=NN1)C(F)(F)F | C7H9F3N2
